US06670372B2
Using the general method of Example 7, 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.50 g, 1.88 mmol) was reacted with 4-iodophenyl phenyl ether (0.78 g, 2.63 mmol). The crude product was purified by column chromatography eluting with 95/5 dichloromethane/methanol to provide a solid. The solid was slurried with aqueous sodium hydroxide to remove salts and then purified by column chromatography eluting with 9/1 ethyl acetate/methanol to provide a solid. This material was further purified by column chromatography eluting with 99/1 ethyl acetate/methanol to provide 24 mg of 1-(2-{[3-(4-phenoxyphenyl)-2-propynyl]oxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a solid, m.p. 146-148° C.

reactant | 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.88 mmol, 0.50 g | C(C#C)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C15H14N4O
reactant | 4-iodophenyl phenyl ether | 2.63 mmol, 0.78 g | C1(=CC=CC=C1)OC1=CC=C(C=C1)I | C12H9IO
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(2-{[3-(4-phenoxyphenyl)-2-propynyl]oxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 24 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C27H22N4O2
